*****************************************************************
* INFINEON HITFET Smart Power Switches                          *
* Level 3 SPICE Library for HITFET Version 1.0          11/98   *
*                                                               *
*                                                               *
*****************************************************************
* Simulation support: simulate@infineon.com                     *
*****************************************************************
*                                                               *
* Models provided by INFINEON are not warranted by INFINEON as  *
* fully representing all of the specifications and operating    *
* characteristics of the semiconductor product to which the     *
* model relates. The model describe the characteristics of a    * 
* typical device.                                               * 
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. INFINEON therefore does not  *
* assume any liability arising from their use.                  *
* INFINEON reserves the right to change models without prior    * 
* notice.                                                       *
*                                                               *
* This library contains models of the following INFINEON        *
* HITFET Transistors:                                           *
*                                                               *
*  BSP78                                                        *
*  BTS134                                                       * 
*****************************************************************
*
*
.SUBCKT BSP78 GATE DRAIN SOURCE TJ Tsp Tamb
.PARAM   Cgs=0.643N Cox=2.1N Kgd=0.65N VSW=-1.61 cjo_ds=0.598n
.PARAM   W=0.68 L=1.025U VTH=2.29 alpha=0.5 RG=10 RD=19.26M RS=5M LG=7N LD=5N LS=5N
.PARAM   uo=515 vmax=1.25E5 bv =62 trr=58n ISE=.32n  
.MODEL  D_BODY    D (BV= {bv},CJO ={cjo_ds},TT ={trr},IS ={ISE})
.MODEL DZE2 D (IS=1E-12,RS=5.5,BV=38,N=1.27,CJO=0.6P,VJ=0.75,M=0.33,IBV=.1M) 
.MODEL DZE3 D (VJ=0.2)
.MODEL	NMOS_L3	NMOS (LEVEL=3,W={W},L={L},VTO={VTH},nsub=nsub=3.3E17,tox=55E-9,vmax={vmax},u0={uo})
.MODEL	MND	NMOS (LEVEL=3,W={50U},L={20U},VTO=-0.97,nsub=2E16,tox=55E-9,vmax={vmax},u0={uo})
.MODEL	MNDD    NMOS (LEVEL=3,W={15U},L={45U},VTO=-16,nsub=2E16,tox=200E-9,vmax={vmax},u0={uo})
.MODEL	MNDD2   NMOS (LEVEL=3,W={90U},L={12U},VTO=-16,nsub=2E16,tox=200E-9,vmax={vmax},u0={uo})
.PARAM  selfh={1} Rth1={0.043}  Rth2={0.067}  Rth3={0.142}  Rth4={0.222}  Rth5={0.091}  Rth6={5.018} Rth7={5.00}
.PARAM  CZth1={2.167E-4} CZth2={2.069E-4} CZth3={4.403E-4} CZth4={1.264E-3} CZth5={2.8116E-3} CZth6={2.611E-3} CZth7={0.58E-3}

L_LS         SOURCE 7  {LS}  
V_VDR         Vdrain dr DC 0V AC 0V 
E_E14         RDP RKP VALUE { {alpha}*(V(RDM)-V(DSB))**2+I(V_VID)*
+ {RD}/(300/(V(TJ)+273))**1.5 }
R_RKLEIN         RDM RKP  .01m  
R_RDUMMY         RDM RDP  1E12  
L_LD         DCB DRAIN  {LD}  
V_VID         DCB RDP DC 0V AC 0V 
R_R8         DSB vg  1E12  
E_E13         Vdrain DSB RDM DSB 1
G_ABMII2         RDM DSB VALUE { I(V_VDR)*((TEMP+273)/(V(TJ)+273))**1.5    }
E_ABM11         Vdepl 0 VALUE { if (V(Vdg) >0.0, V(Vdg)   
+ +2*({Kgd}/{Cox})**2*(1-sqrt(1+(V(Vdg)/({Kgd}/{Cox})**2))),0)   }
E_ABM26         Vgox 0 VALUE { V(Vdg)-V(Vdepl)     }
G_G7         RDM gi VALUE { if (time>50n, DDT({Cox}*V(Vgox, 0)),0) }
E_EVTH         vg gi VALUE { (V(TJ, 0)-{TEMP})*0.0025 }
R_RLKG         DSB gi  1E12  
C_CGS1         DSB gi  {Cgs}  
E_ABM27         Vdg 0 VALUE { V(RDM)-V(gi)+{alpha}*(V(RDM)-V(DSB))**2    }
S_S3         gi DSB $N_0002 0 S3
RS_S3        $N_0002 0 1G
        .MODEL S3 VSWITCH Roff=1e6 Ron=100 Voff=3.5 Von=4
R_RS         7 DSB  {Rs}  
R_RG         8 d12  {RG}  
L_LG         GATE 8  {LG}  
E_ABM22         OT 0 VALUE { if (V(TJ)<155 | V(OTN)>3.5 ,0,5)    }
E_ABM23         OTN 0 VALUE { if (V(TJ)>165 | V(OT)>3.5 ,0,5)    }
M_X4         dr vg DSB DSB NMOS_L3
D_DBODY1         DSB DCB D_BODY 
M_M3         sg12 sg12 d12 DSB MND
M_M2         sg12 sg12 d12 DSB MNDD
D_ZD2         gi clb DZE2 
D_ZD1         DCB clb DZE3 
M_M4         gi sg12 sg12 DSB MNDD2
E_ABM28         $N_0002 0 VALUE { if (I(V_VID)>(23-(V(TJ)-25)*0.067)|V(OT)>3.5,
+  5,0)    }
G_G8         0 TJ VALUE { if (time>50n, V(DCB, DSB)*I(V_VID)*{selfh},0) }
R_Rth2         1 2  {Rth2}  
C_CZth2         Tamb 1  {CZth2}  
C_CZth3         2 Tamb  {CZth3}  
C_CZth4         Tamb 3  {CZth4}  
C_CZth5         Tamb 4  {CZth5}  
C_CZth6         Tamb 5  {CZth6}  
R_Rth3         2 3  {Rth3}  
R_Rth4         3 4  {Rth4}  
R_Rth5         4 5  {Rth5}  
R_Rth6         5 6  {Rth6}  
R_Rth1         TJ 1  {Rth1}  
C_CZth1         TJ Tamb  {CZth1}  
R_Rth7         6 Tsp  {Rth7}  
C_CZth7         Tamb 6  {CZth7}  

.ENDS    BSP78

*
.SUBCKT BTS134 GATE DRAIN SOURCE TJ TC Tamb
.PARAM   Cgs=0.643N Cox=2.1N Kgd=0.65N VSW=-1.61 cjo_ds=0.598n
.PARAM   W=0.68 L=1.025U VTH=2.29 alpha=0.5 RG=10 RD=19.26M RS=5M LG=7N LD=5N LS=5N
.PARAM   uo=515 vmax=1.25E5 bv =62 trr=58n ISE=.32n  
.MODEL  D_BODY    D (BV= {bv},CJO ={cjo_ds},TT ={trr},IS ={ISE})
.MODEL DZE2 D (IS=1E-12,RS=5.5,BV=38,N=1.27,CJO=0.6P,VJ=0.75,M=0.33,IBV=.1M) 
.MODEL DZE3 D (VJ=0.2)
.MODEL	NMOS_L3	NMOS (LEVEL=3,W={W},L={L},VTO={VTH},nsub=nsub=3.3E17,tox=55E-9,vmax={vmax},u0={uo})
.MODEL	MND	NMOS (LEVEL=3,W={50U},L={20U},VTO=-0.97,nsub=2E16,tox=55E-9,vmax={vmax},u0={uo})
.MODEL	MNDD    NMOS (LEVEL=3,W={15U},L={45U},VTO=-16,nsub=2E16,tox=200E-9,vmax={vmax},u0={uo})
.MODEL	MNDD2   NMOS (LEVEL=3,W={90U},L={12U},VTO=-16,nsub=2E16,tox=200E-9,vmax={vmax},u0={uo})
.PARAM  selfh={1} Rth1={0.015}  Rth2={0.034}  Rth3={0.181}  Rth4={0.282}  Rth5={0.205}  Rth6={0.073}
.PARAM  CZth1={7.167E-5} CZth2={7.7331E-5} CZth3={1.993E-4} CZth4={1.698E-3} CZth5={5.296E-3} CZth6={0.028}

L_LS         SOURCE 7  {LS}  
V_VDR         Vdrain dr DC 0V AC 0V 
E_E14         RDP RKP VALUE { {alpha}*(V(RDM)-V(DSB))**2+I(V_VID)*
+ {RD}/(300/(V(TJ)+273))**1.5 }
R_RKLEIN         RDM RKP  .01m  
R_RDUMMY         RDM RDP  1E12  
L_LD         DCB DRAIN  {LD}  
V_VID         DCB RDP DC 0V AC 0V 
R_R8         DSB vg  1E12  
E_E13         Vdrain DSB RDM DSB 1
G_ABMII2         RDM DSB VALUE { I(V_VDR)*((TEMP+273)/(V(TJ)+273))**1.5    }
E_ABM11         Vdepl 0 VALUE { if (V(Vdg) >0.0, V(Vdg)   
+ +2*({Kgd}/{Cox})**2*(1-sqrt(1+(V(Vdg)/({Kgd}/{Cox})**2))),0)   }
E_ABM26         Vgox 0 VALUE { V(Vdg)-V(Vdepl)     }
G_G7         RDM gi VALUE { if (time>50n, DDT({Cox}*V(Vgox, 0)),0) }
E_EVTH         vg gi VALUE { (V(TJ, 0)-{TEMP})*0.0025 }
R_RLKG         DSB gi  1E12  
C_CGS1         DSB gi  {Cgs}  
E_ABM27         Vdg 0 VALUE { V(RDM)-V(gi)+{alpha}*(V(RDM)-V(DSB))**2    }
S_S3         gi DSB $N_0002 0 S3
RS_S3        $N_0002 0 1G
        .MODEL S3 VSWITCH Roff=1e6 Ron=100 Voff=3.5 Von=4
R_RS         7 DSB  {Rs}  
R_RG         8 d12  {RG}  
L_LG         GATE 8  {LG}  
E_ABM22         OT 0 VALUE { if (V(TJ)<155 | V(OTN)>3.5 ,0,5)    }
E_ABM23         OTN 0 VALUE { if (V(TJ)>165 | V(OT)>3.5 ,0,5)    }
M_X4         dr vg DSB DSB NMOS_L3
D_DBODY1         DSB DCB D_BODY 
M_M3         sg12 sg12 d12 DSB MND
M_M2         sg12 sg12 d12 DSB MNDD
D_ZD2         gi clb DZE2 
D_ZD1         DCB clb DZE3 
M_M4         gi sg12 sg12 DSB MNDD2
E_ABM28         $N_0002 0 VALUE { if (I(V_VID)>(23-(V(TJ)-25)*0.067)|V(OT)>3.5,
+  5,0)    }
G_G8         0 TJ VALUE { if (time>50n, V(DCB, DSB)*I(V_VID)*{selfh},0) }
R_Rth2         1 2  {Rth2}  
C_CZth2         Tamb 1  {CZth2}  
C_CZth3         2 Tamb  {CZth3}  
C_CZth4         Tamb 3  {CZth4}  
C_CZth5         Tamb 4  {CZth5}  
C_CZth6         Tamb 5  {CZth6}  
R_Rth3         2 3  {Rth3}  
R_Rth4         3 4  {Rth4}  
R_Rth5         4 5  {Rth5}  
R_Rth6         5 TC  {Rth6}  
R_Rth1         TJ 1  {Rth1}  
C_CZth1         TJ Tamb  {CZth1}   

.ENDS    BTS134
