* Pin 1 = gate
* Pin 2 = drain
* Pin 3 = source
* Body = drain
* This is a "pin-swapping subcircuit" compatible with FreePCB
* "Normal" netlist order is D G S
*
.SUBCKT IRFP244 G D S
M1 Di Gi S S IRFP244_DC L=2u W=500u
RG Gi G 1m
RD Di D 0.176
* RD Di D 1e-8
Cgs G S 1317.58p
Cgd G D Q=if(x < 0, C*(x*atan(a*x)-1/(2*a)*ln(1+a*a*x*x))+b*x, C/a*ln(cosh(a*x))+B*x)
DDS S D DDS
*
.model IRFP244_DC nmos (
+ level=12
+ cox=1.00E-06
+ xj=1.00E-08
+ vto=4.40535639
+ gamma=5.99988290
+ phi=3.46546207E-01
+ kp=1.12529011E-01
+ e0=2.66834176E+04
+ ucrit=1.38488749E+06
+ lambda=3.59162353E-02
+ weta=0
+ leta=0
+ q0=0
+ lk=2.9E-07
+ iba=0
+ ibb=3.0E+08
+ ibn=1.0
+ dw=0
+ dl=0
+ rsh=0)
*
.model DDS D(
+ N=1.35992673
+ IS=1.00000000E-09
+ RS=0.01408
+ CJO=1305.344501p
+ M=0.656367822
+ VJ=2.446169247)
*
.PARAM Cgdmin=0.1p
.PARAM Cgdmax=2244.464p
.PARAM a=0.3334926886
.PARAM B=(Cgdmin + 0.5 * pi * Cgdmax) / (1 + 0.5 * pi)
.PARAM C=(Cgdmax - Cgdmin) / (1 + 0.5 * pi)
.ENDS IRFP244