* PSpice Model Editor - Version 9.2

*$
.MODEL Qtip32b pnp
+IS=1e-09 BF=134.366 NF=1.29961 VAF=10
+IKF=0.742988 ISE=1e-16 NE=1.40014 BR=0.1
+NR=1.46599 VAR=100 IKR=3.21978 ISC=1e-16
+NC=2.71657 RB=7.44433 IRB=2.41268 RBM=0.218936
+RE=0.0152284 RC=0.0761421 XTB=0.1 XTI=1
+EG=1.05 CJE=3.26474e-10 VJE=0.446178 MJE=0.464223
+TF=1e-08 XTF=3.50642 VTF=8.2848 ITF=0.0305862
+CJC=3.07595e-10 VJC=0.77548 MJC=0.476497 XCJC=0.799334
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=9.57121e-06 PTF=0 KF=0 AF=1
* Model generated on Feb  8, 2004
* Model format: PSpice
*$
.MODEL Qmmbt4401lt1 npn
+IS=2.59695e-13 BF=343.016 NF=1.13203 VAF=5.26286
+IKF=0.447431 ISE=6.43871e-13 NE=1.54353 BR=34.3016
+NR=1.16008 VAR=40.2353 IKR=4.47431 ISC=6.43871e-13
+NC=1.28908 RB=1.11276 IRB=0.100019 RBM=1.11276
+RE=0.0001 RC=0.995308 XTB=0 XTI=3.99416
+EG=1.05 CJE=8.79135e-12 VJE=0.649895 MJE=0.356539
+TF=4.90706e-10 XTF=1.02517 VTF=10.5361 ITF=0.00987492
+CJC=2.49117e-11 VJC=0.497694 MJC=0.324754 XCJC=0.896875
+FC=0.503031 CJS=0 VJS=0.75 MJS=0.5
+TR=1.74885e-08 PTF=0 KF=0 AF=1
*$
.MODEL Q2n4918 pnp
+IS=3.57109e-14 BF=187.022 NF=0.681929 VAF=23.6311
+IKF=0.200481 ISE=1.66325e-13 NE=1 BR=0.1
+NR=0.75 VAR=45.4334 IKR=1.5814 ISC=2.70086e-14
+NC=2.96875 RB=11.1882 IRB=0.001 RBM=0.1
+RE=0.000658921 RC=0.229261 XTB=1.08013 XTI=1.11538
+EG=1.05 CJE=6.54195e-08 VJE=0.531942 MJE=0.518039
+TF=1e-08 XTF=1.35726 VTF=0.996125 ITF=0.999908
+CJC=2.09701e-10 VJC=0.4 MJC=0.43982 XCJC=0.803125
+FC=0.616062 CJS=0 VJS=0.75 MJS=0.5
+TR=4.76469e-06 PTF=0 KF=0 AF=1
* Model generated on Feb 21, 2004
* Model format: PSpice
*$
* created using Parts release 7.1p on 08/26/96 at 14:38
.MODEL D1N4376 D
+ IS=857.8900E-12
+ N=1.88811
+ RS=2.53577
+ CJO=1.0000E-12
+ M=.3333
+ VJ=3.3
+ ISR=40.817E-9
+ NR=6.32069
+ BV=10
+ IBV=10
+ TT=662.00E-12
*$
* created using Parts release 7.1p on 08/26/96 at 10:32
* per manuf. est.: Vz(est)=45v@100ma; TT=0s
.SUBCKT D-LED 1 2
D1	1	2	DFWD
D1A	1	2	DXTRA
D2	2	1	DLEAK
R1	1	2	2.68602Meg

.MODEL DFWD D
+ IS=350.E-12
+ N=0.66
+ RS=5E-2
+ IKF=0.54
+ XTI=2
+ EG=0.69
+ CJO=5.8E-9
+ M=.50
+ VJ=3.3
+ ISR=155.E-15
+ NR=0.73
+ BV=10
+ IBV=25.868E-3
+ TT=0

.MODEL DXTRA    D  
+ IS = 1.367485E-12
+ RS = 483.7370E-6
+ N = 0.89697
+ IKF = 0.00159295
+ TT = 0
+ CJO = 0
+ VJ = 1
+ M = .5
+ EG = 0.69
+ XTI = 2
+ KF = 0
+ AF = 1
+ FC = .5
+ BV = 1E5
+ IBV = .001

.MODEL DLEAK    D  
+ IS = 34.53224E-12
+ RS = 1
+ N = 106.607
+ TT = 0
+ CJO = 0
+ VJ = 1
+ M = .5
+ EG = .69
+ XTI = 2
+ KF = 0
+ AF = 1
+ FC = .5
+ BV = 1E5
+ IBV = .001

.ENDS
*$
* created using Parts release 7.1p on 09/05/96 at 15:48
.SUBCKT D1N5814 1 2
D1	1	2	DFWD
RLEAK	1	2	24.9044Meg

.MODEL DFWD D
+ IS=344.7072E-9
+ N=1.63162
+ RS=2.706738E-3
+ IKF=0.113748
+ CJO=534.45E-12
+ M=.40878
+ VJ=.48463
+ ISR=162.8545E-9
+ NR=1.70788
+ BV=120.29
+ IBV=6.4502
+ TT=60.667E-9

.ENDS
*$
