*PUTTMER 1997 THICKNESS-MODE TRANSDUCER
.SUBCKT PZTrec E B F
O1 B 1 F 1 mylossyTlineREC
V1 1 2
E1 2 0 4 0 1
V2 E 3
C0 3 0 {c0R}
F1 0 3 V1 {hc0R}
F2 0 4 V2 {hR}
R1 4 0 1E3
C1 4 0 1
.model mylossyTlineREC LTRA(len={thickR} R={rR} L={LR} C={cR})
.ENDS