.SUBCKT xopps in out psp psm vgnd  
* Additional quiescent current if needed.
* Example:  X1 xopps ....  IQ=1m
.PARAM IQ=1p
V1 in out 0
G1 psp vgnd VALUE={if((I(V1)>0),(I(V1)+IQ),IQ)}
G2 vgnd psm VALUE={if((I(V1)<0),(-I(V1)+IQ),IQ)}
.ends